US04281005
To a mixture of isonicotinic acid (4.9 g., 0.04 mol) and 4-chloro-o-phenylenediamine (5.8 g., 0.041 mol) was added polyphosphoric acid (20 ml.). The mixture was heated to 200° and maintained at this temperature for 45 min. After cooling, the reaction mixture was poured onto ice and the solution made basic with conc. NH4OH. The resulting yellow solid was removed by filtration, dissolved in isopropanol, filtered and the filtrate concentrated to a solid. After recrystallization from EtOH-H2O, 4.5 g. of 5-chloro-2-(4-pyridyl)benzimidazole (49.1%) was obtained; m.p. 306-307.

reactant | isonicotinic acid | 0.04 mol, 4.9 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 4-chloro-o-phenylenediamine | 0.041 mol, 5.8 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | NH4OH | [NH4+].[OH-]
product | 5-chloro-2-(4-pyridyl)benzimidazole | 49.1% | ClC1=CC2=C(N=C(N2)C2=CC=NC=C2)C=C1 | C12H8ClN3
